US08623889B2
To a solution of 7-(5-fluoro-2-methylphenyl)isoquinolin-3-amine (0.5177 g, 2.052 mmol) in chloroform (10 mL, 100 mmol) was added cuprous monochloride (0.3159 g, 3.191 mmol) and tert-butyl nitrite (0.50 mL, 3.8 mmol). The reaction mixture was stirred at room temperature in a flask shielded from the light with foil for 20 hours. To the reaction mixture was added 2M aqueous Na2CO3 and ethyl acetate, and the resulting mixture was filtered through celite. The organic layer was then dried over MgSO4, filtered, and evaporated in vacuo. The resulting residue was purified via flash chromatography on silica gel (40 g silica, solvent gradient: 0-50% ethyl acetate in heptanes) to yield 202.6 mg (36%) of 3-chloro-7-(5-fluoro-2-methylphenyl)isoquinoline. LCMS (ESI): M+H=272.2; 1H NMR (400 MHz, DMSO-d6) δ 9.26 (s, 1H), 8.19 (s, 1H), 8.11 (s, 1H), 8.05 (d, J=8.5 Hz, 1H), 7.87 (d, J=8.5 Hz, 1H), 7.45-7.36 (m, 1H), 7.19 (t, J=7.9 Hz, 2H), 2.24 (s, 3H).

reactant | 7-(5-fluoro-2-methylphenyl)isoquinolin-3-amine | 2.052 mmol, 0.5177 g | FC=1C=CC(=C(C1)C1=CC=C2C=C(N=CC2=C1)N)C | C16H13FN2
reactant | chloroform | 100 mmol, 10 mL | C(Cl)(Cl)Cl | CHCl3
reactant | tert-butyl nitrite | 3.8 mmol, 0.50 mL | N(=O)OC(C)(C)C | C4H9NO2
reactant | Na2CO3 | 2M | C(=O)([O-])[O-].[Na+].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-chloro-7-(5-fluoro-2-methylphenyl)isoquinoline | 202.6 mg, 36% | ClC=1N=CC2=CC(=CC=C2C1)C1=C(C=CC(=C1)F)C | C16H11ClFN
